US07618975B2
(5-Methoxy-pyrazin-2-yl)-(2-methyl-quinazolin-4-yl)-methyl-amine
(5-Methoxy-pyrazin-2-yl)-(2-methyl-quinazolin-4-yl)-amine: The title compound was prepared from 2-amino-5-methoxy-pyrazine (105 mg, 0.84 mmol) and 4-chloro-2-methyl-quinazoline (150 mg, 0.84 mmol) by a procedure similar to example 125c, yielding 106 mg of the title product.

reactant | (5-Methoxy-pyrazin-2-yl)-(2-methyl-quinazolin-4-yl)-amine | COC=1N=CC(=NC1)NC1=NC(=NC2=CC=CC=C12)C | C14H13N5O
reactant | 2-amino-5-methoxy-pyrazine | 0.84 mmol, 105 mg | NC1=NC=C(N=C1)OC | C5H7N3O
reactant | 4-chloro-2-methyl-quinazoline | 0.84 mmol, 150 mg | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
product | (5-Methoxy-pyrazin-2-yl)-(2-methyl-quinazolin-4-yl)-methyl-amine | 106 mg | COC=1N=CC(=NC1)N(C)C1=NC(=NC2=CC=CC=C12)C | C15H15N5O
